US07504410B2
3b) 4-((4-((3-aminopropyl)amino)5-bromo-2-pyrimidinyl)amino)-benzenesulfonamide hydrochloride
To a solution of 4-aminobenzenesulfonamide (190 mg) in acetonitrile (20 mL), hydrochloric acid solution (4M in dioxane, 0.3 mL) and water (0.3 mL) was added (3-((5-bromo-2-chloro-4-pyrimidinyl)amino)propyl)-carbamic acid-1,1-dimethylethyl ester (360 mg). The resulting mixture was refluxed overnight. The precipitate was collected and washed with acetonitrile and methanol to afford the title compound (320 mg).

reactant | 4-aminobenzenesulfonamide | 190 mg | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (3-((5-bromo-2-chloro-4-pyrimidinyl)amino)propyl)-carbamic acid-1,1-dimethylethyl ester | 360 mg | CC(C)(C)OC(NCCCNC1=NC(=NC=C1Br)Cl)=O | C12H18BrClN4O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | 4M, 0.3 mL | Cl | ClH
solvent | water | 0.3 mL | O | H2O
product | 4-((4-((3-aminopropyl)amino)5-bromo-2-pyrimidinyl)amino)-benzenesulfonamide hydrochloride | 320 mg | Cl.NCCCNC1=NC(=NC=C1Br)NC1=CC=C(C=C1)S(=O)(=O)N | InChI=1S/C13H17BrN6O2S.ClH/c14-11-8-18-13(20-12(11)17-7-1-6-15)19-9-2-4-10(5-3-9)23(16,21)22;/h2-5,8H,1,6-7,15H2,(H2,16,21,22)(H2,17,18,19,20);1H
